US07157491B2
7-Bromo-5-methylbenzofuran
To a 2 L round bottom flask was added PPA (3 g), anhydrous chlorobenzene (1.0 L) and the mixture was brought to reflux followed by the slow addition of 2-bromo-1-(2,2-dimethyoxy-ethoxy)-4-methyl benzene (22.9 g, 83.3 mmol) in chlorobenzene (200 ml) by addition funnel over a 2 h period. The reaction was then cooled and passed through a silica plug (washed with chlorobenzene) and concentrated to a mixture of product plus 4-iodo-2-methylphenol. Column chromatography (10% EtOAc/hexane) afforded 11.54 g (66%) of product as a clear oil: 1H NMR (300 MHz, DMSO-d6): δ 2.40 (3H, s), 7.02 (1H, d, J=2.2 Hz), 7.39 (1H, s), 7.45 (1H, s), 8.07 (1H, d, J=2.2 Hz).

reactant | 2-bromo-1-(2,2-dimethyoxy-ethoxy)-4-methyl benzene | 83.3 mmol, 22.9 g | BrC1=C(C=CC(=C1)C)OCC(OC)OC | C11H15BrO3
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 1.0 L | ClC1=CC=CC=C1 | C6H5Cl
product | 7-Bromo-5-methylbenzofuran | 11.54 g, 66% | BrC1=CC(=CC=2C=COC21)C | C9H7BrO
